US06787534B2
3-Carbethoxy-8-bromoquinoline
A mixture of 2.5 g (8.4 mmol) of 3-carbethoxy-4-hydroxy-8-bromoquinoline and 10 ml of phosphorus oxychloride was heated under reflux for 1 hour. After the completion of the reaction, phosphorus oxychloride was removed and the residue was purified by NH silica gel, to give 2.6 g of a chlorinated derivative. Next, 500 mg (1.6 mmol) of the chlorinated derivative was dissolved in 20 ml of dioxane, and 1 g of powdered zinc and 3 ml of acetic acid were added thereto, followed by heating at 65° C. for 30 minutes. To the reaction mixture was added ethyl acetate, followed by filtering through Celite. The filtrate was washed with brine, dried over magnesium sulfate and concentrated. To the residue was added 1 ml of acetic acid, and the mixture was left stand for 12 hours. Then, acetic acid was removed, and the residue was subjected to silica gel column chromatography and eluted with an eluent (ethyl acetate-n-hexane=1-7), to give 180 mg of the title compound.

reactant | 3-carbethoxy-4-hydroxy-8-bromoquinoline | 8.4 mmol, 2.5 g | C(=O)(OCC)C=1C=NC2=C(C=CC=C2C1O)Br | C12H10BrNO3
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | zinc | 1 g | [Zn] | Zn
product | 3-Carbethoxy-8-bromoquinoline | 180 mg | C(=O)(OCC)C=1C=NC2=C(C=CC=C2C1)Br | C12H10BrNO2
